US07674797B2
To a mixture of dihydro-furan-2,5-dione (396 mg, 4.00 mmol) and 1,2-dibromo-ethane (1.50 g, 8.00 mmol) in CH3CN (20 ml) was added K2CO3 (829 mg, 6.00 mmol) at room temperature. The mixture was stirred at reflux overnight and the solvent was evaporated. The mixture was diluted with EtOAc (150 mL), washed with water, sat. Na2CO3aq., brine, and dried over MgSO4. The solvent was evaporated to give 1-(2-bromo-ethyl)-pyrrolidine-2,5-dione that was used for next step without further purification (580 mg, 70.4%).

reactant | dihydro-furan-2,5-dione | 4.00 mmol, 396 mg | O1C(CCC1=O)=O | C4H4O3
reactant | 1,2-dibromo-ethane | 8.00 mmol, 1.50 g | BrCCBr | C2H4Br2
reactant | K2CO3 | 6.00 mmol, 829 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 20 ml | CC#N | C2H3N
product | 1-(2-bromo-ethyl)-pyrrolidine-2,5-dione | BrCCN1C(CCC1=O)=O | C6H8BrNO2
